US06919332B2
To a solution of 5-(4-methoxy-phenoxy)-1H-indazole (0.20 grams, 0.83 mmol) in 1 mL of dimethylformamide was added sodium hydride (0.040 grams of a 60% dispersion in mineral oil, 1.0 mmol). After shaking at room temperature for 10 minutes, the mixture was treated with 2-iodopropane (0.090 mL, 0.15 grams, 0.9 mmol). The mixture was heated to 50° C. for 6 hours. After cooling to room temperature, the mixture was diluted with water and was extracted 3 times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 0-30% ethyl acetate in hexanes, affording 1-isopropyl-5-(4-methoxy-phenoxy)-1H-indazole (90 miligrams) MS: 283.4 [M+H]+ and 2-isopropyl-5-(4-methoxy-phenoxy)-2H-indazole MS: 283.4 [M+H]+ (75 miligrams) as colorless syrup.

reactant | 5-(4-methoxy-phenoxy)-1H-indazole | 0.83 mmol, 0.20 grams | COC1=CC=C(OC=2C=C3C=NNC3=CC2)C=C1 | C14H12N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-iodopropane | 0.9 mmol, 0.090 mL, 0.15 grams | IC(C)C | C3H7I
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-isopropyl-5-(4-methoxy-phenoxy)-1H-indazole | C(C)(C)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=C1)OC | C17H18N2O2
